US04812164
using 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione with phosphorus oxychloride and pyridine within 15 minutes at 20°-40° C. and thereafter for 1 hour at 70° C. there is obtained 2-chloro-1-(4-chloro-2-fluoro -5-isopropoxyphenyl)-5-fluoro-4-trifluoromethyl-6(1H)-pyrimidinone, 1H-NMR (CDCl3, 60 MHz): 7.42 ppm (d,1H), 6.84 ppm (d,1H), 4.50 ppm (m,1H), 1.44 ppm (d,6H);

reactant | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=C(C1=O)F)C(F)(F)F)=O)F | C14H10ClF5N2O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-chloro-1-(4-chloro-2-fluoro -5-isopropoxyphenyl)-5-fluoro-4-trifluoromethyl-6(1H)-pyrimidinone | ClC=1N(C(C(=C(N1)C(F)(F)F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F | C14H9Cl2F5N2O2
